US08247595B2
To a solution of 1.0 g of 6-chloro-1-hexyne and 2.0 g of methyl (3,3,3-trifluoropropylsulfonyl)acetate in 50 ml of dimethyl sulfoxide, 0.3 g of sodium hydride (60% in oil) was added at room temperature. The mixture was stirred at room temperature for 12 hours, at 60° C. for 2 hours and then at 90° C. for 10 hours. The reaction mixture was allowed to stand near room temperature, and 10% hydrochloric acid was added thereto, followed by extraction with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The obtained residue was subjected to silica gel chromatography to obtain 1.50 g of methyl 2-(3,3,3-trifluoropropylsulfonyl)-7-octynoate (hereinafter referred to as the present compound (1)).

reactant | 6-chloro-1-hexyne | 1.0 g | ClCCCCC#C | C6H9Cl
reactant | methyl (3,3,3-trifluoropropylsulfonyl)acetate | 2.0 g | FC(CCS(=O)(=O)CC(=O)OC)(F)F | C6H9F3O4S
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | methyl 2-(3,3,3-trifluoropropylsulfonyl)-7-octynoate | 1.50 g | FC(CCS(=O)(=O)C(C(=O)OC)CCCCC#C)(F)F | C12H17F3O4S
